US08236806B2
4-(3-(1-tert-butyl-5-phenyl-1H-pyrazol-3-yl)propyl)-2-methyl-1-m-tolylpiperazine (Compound 8)
64 mg (44%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-tert-butyl-5-phenyl-1H-pyrazol-3-yl)propanal (80 mg, 0.312 mmol), 2-methyl-1-m-tolylpiperazine (59 mg, 0.312 mmol), DIPEA (82 mL, 0.468 mmol) and NaBH(OAc)3 (198 mg, 0.936 mmol).

reactant | 3-(1-tert-butyl-5-phenyl-1H-pyrazol-3-yl)propanal | 0.312 mmol, 80 mg | C(C)(C)(C)N1N=C(C=C1C1=CC=CC=C1)CCC=O | C16H20N2O
reactant | 2-methyl-1-m-tolylpiperazine | 0.312 mmol, 59 mg | CC1N(CCNC1)C=1C=C(C=CC1)C | C12H18N2
reactant | DIPEA | 0.468 mmol, 82 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.936 mmol, 198 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 4-(3-(1-tert-butyl-5-phenyl-1H-pyrazol-3-yl)propyl)-2-methyl-1-m-tolylpiperazine | C(C)(C)(C)N1N=C(C=C1C1=CC=CC=C1)CCCN1CC(N(CC1)C=1C=C(C=CC1)C)C | C28H38N4
